US05318720
In a 200 ml-round-bottomed flask, 4.00 g (10.4 mM) of 2-(4-acetoxybenzoylamino)-4-octylphenol, 0.40 g of p-toluenesulfonic acid monohydrate and 40 ml of o-dichlorobenzene were placed, followed by stirring for 1 hour at 188°-192° C. After the reaction, odichlorobenzene in the reaction mixture was distilled off under reduced pressure. To the residue, 1.98 g (30.0 mM) of potassium hydroxide and 60 ml of ethanol was added and stirred for 1 hour on a water bath kept at about 75° C. After the reaction, ethanol in the reaction mixture was distilled off under reduced pressure. Water was added to the resultant residue, followed by addition of 6.0 ml (34.0 mM) of concentrated hydrochloric acid under stirring on an ice bath to precipitate a crystal. The crystal was recovered by filtration and washed with water, followed by recrystallization from ethanol to obtain 2.70 g of 2-(4-hydroxyphenyl)-5-octylbenzoxazole (Yield: 80.0%).

reactant | 2-(4-acetoxybenzoylamino)-4-octylphenol | 10.4 mM, 4.00 g | C(C)(=O)OC1=CC=C(C(=O)NC2=C(C=CC(=C2)CCCCCCCC)O)C=C1 | C23H29NO4
reactant | p-toluenesulfonic acid monohydrate | 0.40 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | o-dichlorobenzene | 40 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-(4-hydroxyphenyl)-5-octylbenzoxazole | 2.70 g, Yield: 80.0% | OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)CCCCCCCC | C21H25NO2
